US06482849B1
L-histidine (3.13 g) was added to a solution of NaNH2 in liquid ammonia prepared from Na (0.93 g) and FeCl3 (catalytic amount) in liquid ammonia (50 ml) After 15 min., a solution of 2,6-dichlorobenzylchloride (3.96 g) in THF (5 ml) was added and the mixture was stirred for 3 hr. The reaction mixture was quenched with H2O and ether. The pH of the aqueous layer was adjusted to pH 8 with 5% HCl followed by cooling. The resulting precipitate was collected by filtration, washed with H2O, and dried to give 1-[(2,6-dichlorophenyl)methyl]-L-histidine (3.58 g). The obtained compound (0.80 g) was dissolved in MeOH (30 ml) and HCl gas was bubbled for 10 min. at 0° C. The reaction mixture was stirred for 15 hr. at room temperature and the solvent was removed in vacuo to give 1-[(2,6-Dichlorophenyl)methyl]-L-histidine methyl ester, dihydrochloride salt.

reactant | L-histidine | 3.13 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | ammonia | N | H3N
reactant | ammonia | 50 ml | N | H3N
reactant | 2,6-dichlorobenzylchloride | 3.96 g | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-[(2,6-dichlorophenyl)methyl]-L-histidine | 3.58 g | ClC1=C(C(=CC=C1)Cl)CN1C=C(C[C@H](N)C(=O)O)N=C1 | C13H13Cl2N3O2
